US07230011B2
2,6-Difluorobenzenesulfonic acid 1-benzyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester hydrochloride
By a method similar to Example 48, using 1-benzyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole (320 mg, 1.0 mmol), 2,6-difluorobenzenesulfonyl chloride (234 mg, 1.1 mmol) in tetrahydrofuran (20 mL), 2,6-lutidine (255 μL, 2.2 mmol) provided 382 mg (77%) of the free base of the desired compound as a colorless oil. A portion of this oil (182 mg) was dissolved in methanol (10 mL) and treated with ammonium chloride (19.6 mg, 0.37 mmol, dissolved in 10 mL methanol). The resulting solution was placed in an ultrasound bath for 5 minutes before removing the solvent in vacuo. The resulting residue was triturated with diethyl ether. Filtration and drying of the precipitate afforded 160 mg (82%) of the title hydrochloride as a white solid: mp=225-227° C.; 1H NMR (400 MHz, dmso-d6): 7.93-7.82 (m, 1H), 7.46-7.30 (mm, 5H), 7.30-7.12 (m, 5H), 6.78 (dd, 1H, J=8.8, 2.0 Hz), 5.33 (s, 2H), 3.42-3.24 (m, 2H, overlapping with H2O), 3.04-2.84 (m, 3H), 2.68 (s, 3H), 2.00-1.78 (m, 4H); MS (ES+): m/e 496.9 (M+1); Calculated (for C27H26F2N2O3S.HCl): C 60.84, H 5.11, N 5.26; found: C 60.69, H 5.00, N 5.26.

reactant | 1-benzyl-3-(1-methylpiperidin-4-yl)-5-hydroxy-1H-indole | 1.0 mmol, 320 mg | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)O)C1CCN(CC1)C | C21H24N2O
reactant | 2,6-difluorobenzenesulfonyl chloride | 1.1 mmol, 234 mg | FC1=C(C(=CC=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
reactant | 2,6-lutidine | 2.2 mmol, 255 μL | N1=C(C=CC=C1C)C | C7H9N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2,6-Difluorobenzenesulfonic acid 1-benzyl-3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester hydrochloride | Cl.C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)OS(=O)(=O)C1=C(C=CC=C1F)F)C1CCN(CC1)C | InChI=1S/C27H26F2N2O3S.ClH/c1-30-14-12-20(13-15-30)23-18-31(17-19-6-3-2-4-7-19)26-11-10-21(16-22(23)26)34-35(32,33)27-24(28)8-5-9-25(27)29;/h2-11,16,18,20H,12-15,17H2,1H3;1H
